US08420642B2
Preparation of 2-(5-bromo-pyridine-2-ylamino)-thiazole-4-carboxylic acid ethyl ester (“A4”)
(5-Bromo-pyridine-2-yl)-thiourea (1 mmol) is dissolved in DMF (2 ml) and 3-Bromo-2-oxo-propionic acid ethyl ester (1 eq.) is added and stirred 2 h at 70° C. The suspension is diluted with DMF (2 ml). After cooling to RT the reaction solution is poured into water and the resulting precipitate is filtered, washed with water and dried 16 h in vacuo at 40° C. “A4” is obtained as colourless powder in a yield of 78%; mp. 299.8-300.8° C.; HPLC (method C): 2.01 min; LC-MS (method A): 2.002 min, 327.95 (M+H+);

reactant | (5-Bromo-pyridine-2-yl)-thiourea | 1 mmol | BrC=1C=CC(=NC1)NC(=S)N | C6H6BrN3S
reactant | 3-Bromo-2-oxo-propionic acid ethyl ester | 1 eq. | C(C)OC(C(CBr)=O)=O | C5H7BrO3
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-(5-bromo-pyridine-2-ylamino)-thiazole-4-carboxylic acid ethyl ester | yield of 78% | C(C)OC(=O)C=1N=C(SC1)NC1=NC=C(C=C1)Br | C11H10BrN3O2S
